US07087629B2
5(S)-Isoxazol-3-ylaminomethyl-3-[3-fluoro-4-(1-(2(S),3-dihydroxpropanoyl)-1,2,5,6-tetrahydropyrid-4-yl)phenylloxazolidin-2-one
To a stirred solution of 5(R)-[N-isoxazol-3-yl-N-(2,2,2-trichloroethyloxycarbonyl)-aminomethyl]-3-[3-fluoro-4-(1,2,5,6-tetrahydropyrid yl)phenyl]oxazolidin-2-one (228 mg, 0.4 mM) in dry dichloromethane (5 ml) at 0–4° C., was added pyridine (158 mg, 2.0 mM) followed by dropwise addition of a solution of (S)-(+)-2,3,0-isopropylideneglycinoyl chloride (EP 0 413 401 A2; 200 mg, 1.2 mM) in dichloromethane (1 ml). The solution was stirred at 0–4° C. for 10 min. and then allowed to warm to ambient temperature. The reaction mixture was washed with water and brine, dried over sodium sulfate and evaporated to a gum. The title compound was isolated by MPLC (60% ethyl acetate/isohexane) and was obtained as a crisp foam on evaporation (158 mg, 60%).

reactant | 5(R)-[N-isoxazol-3-yl-N-(2,2,2-trichloroethyloxycarbonyl)-aminomethyl]-3-[3-fluoro-4-(1,2,5,6-tetrahydropyrid yl)phenyl]oxazolidin-2-one | 0.4 mM, 228 mg | O1N=C(C=C1)N(C(=O)OCC(Cl)(Cl)Cl)C[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)N1CC=CCC1)F | C21H20Cl3FN4O5
reactant | pyridine | 2.0 mM, 158 mg | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | ethyl acetate isohexane | 60% | C(C)(=O)OCC.CCCC(C)C | InChI=1S/C6H14.C4H8O2/c1-4-5-6(2)3;1-3-6-4(2)5/h6H,4-5H2,1-3H3;3H2,1-2H3
